US06444685B1
N-Benzyl-4-{4-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from 4-((2S)-3-Amino-2-hydroxy-propoxy)-phenol and Reference Example 70, N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as a tan solid. 1H NMR (DMSO) δ 1.27 (m, 2H), 1.86 (m, 2H), 2.75(m, 3H), 2.91(t, 2H, J=8.4 Hz), 3.82(m, 5H), 3.89(s, 2H), 4.89(m, 1H), 6.67 (d, J=6.6 Hz), 6.76(d, 2H, J=6.6 Hz), 7.02 (d, 2H, J=6.6 Hz), 7.26 (m, 5H), 7.57 (d, 2H, J=6.6 Hz), 7.78)bs, 1H), 8.87(bs, 1H); MS (ES) m/z: 512.1 (MH+); HRMS for C27H33N3O5S: 511.2215 (MH+).

reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-phenol | NC[C@@H](COC1=CC=C(C=C1)O)O | C9H13NO3
reactant | N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C18H20N2O3S
product | N-Benzyl-4-{4-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=C(C=C1)O)O | C27H33N3O5S
